US07696223B2
a) 1-Cyano-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester
A mixture of 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester (256 mg), CuCN (132 mg) in NMP (N-methyl 2-pyrrolidinone, 2 mL) was heated at 120° C. for 67 min. The mixture was poured into a stirring mixture of EtOAc and diluted ammonium hydroxide solution, then acidified with conc. HCl; then the organic phase was separated from aqueous and washed with sat. NaCl solution, dried over anhydrous sodium sulfate, filtered, concentrated; the residue was purified with column to give the desired product (84 mg). The title compound, ESI MS (m/z): 296 (M+H)+.

reactant | 1-bromo-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 256 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)Br | C15H13BrN2O3
reactant | CuCN | 132 mg | C(#N)[Cu]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | HCl | Cl | ClH
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Cyano-4-hydroxy-9-methyl-9H-beta-carboline-3-carboxylic acid ethyl ester | 84 mg | C(C)OC(=O)C=1N=C(C=2N(C3=CC=CC=C3C2C1O)C)C#N | C16H13N3O3
